* /Users/sean/IdeaProjects/CircuitBuilder/LTSpiceSchematic.asc
MOS0 Vout A 0 0 NMOS
MOS1 Vout B BC BC NMOS
MOS2 BC C CD CD NMOS
MOS3 CD D DE DE NMOS
MOS4 DE E EF EF NMOS
MOS5 EF F FG FG NMOS
MOS6 FG G GH GH NMOS
MOS7 GH H HJ HJ NMOS
MOS8 HJ J JK JK NMOS
MOS9 JK K KL KL NMOS
MOS10 KL L LM LM NMOS
MOS11 LM M MN MN NMOS
MOS12 MN N NO NO NMOS
MOS13 NO O OP OP NMOS
MOS14 OP P 0 0 NMOS
MOS15 Vout Q 0 0 NMOS
MOS16 Vout R 0 0 NMOS
MOS17 Vout S ST ST NMOS
MOS18 ST T TU TU NMOS
MOS19 TU U UV UV NMOS
MOS20 UV V 0 0 NMOS
MOS21 Vout W WX WX NMOS
MOS22 WX X 0 0 NMOS
MOS23 Vout Y 0 0 NMOS
MOS24 Vout Z 0 0 NMOS
MOS25 Vdd A AB AB PMOS
MOS26 AB B Vout Vout PMOS
MOS27 Vout C Vdd Vdd PMOS
MOS28 Vout D Vdd Vdd PMOS
MOS29 Vout E Vdd Vdd PMOS
MOS30 Vout F Vdd Vdd PMOS
MOS31 Vout G Vdd Vdd PMOS
MOS32 Vout H Vdd Vdd PMOS
MOS33 Vout J Vdd Vdd PMOS
MOS34 Vout K Vdd Vdd PMOS
MOS35 Vout L Vdd Vdd PMOS
MOS36 Vout M Vdd Vdd PMOS
MOS37 Vout N Vdd Vdd PMOS
MOS38 Vout O Vdd Vdd PMOS
MOS39 Vdd P PQ PQ PMOS
MOS40 PQ Q QR QR PMOS
MOS41 QR R RS RS PMOS
MOS42 RS S Vout Vout PMOS
MOS43 Vout T Vdd Vdd PMOS
MOS44 Vout U Vdd Vdd PMOS
MOS45 Vdd V VW VW PMOS
MOS46 VW W Vout Vout PMOS
MOS47 Vdd X XY XY PMOS
MOS48 XY Y YZ YZ PMOS
MOS49 YZ Z Vout Vout PMOS
V1 A 0 10
V2 B 0 10
V3 C 0 10
V4 D 0 10
V5 E 0 10
V6 F 0 10
V7 G 0 10
V8 H 0 10
V9 J 0 10
V10 K 0 10
V11 L 0 10
V12 M 0 10
V13 N 0 10
V14 O 0 10
V15 P 0 10
V16 Q 0 10
V17 R 0 10
V18 S 0 10
V19 T 0 10
V20 U 0 10
V21 V 0 10
V22 W 0 10
V23 X 0 10
V24 Y 0 10
V25 Z 0 10
Vdd Vdd 0 PULSE(0 10 4m 0 0 3m)
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/sean/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran 10m
.backanno
.end
