* /Users/sean/IdeaProjects/CircuitBuilder/LTSpiceSchematic.asc
MOS0 Vout A AB AB NMOS
MOS1 AB B BC BC NMOS
MOS2 BC C 0 0 NMOS
MOS3 Vout A Vdd Vdd PMOS
MOS4 Vout B Vdd Vdd PMOS
MOS5 Vout C Vdd Vdd PMOS
V1 A 0 10
V2 B 0 10
V3 C 0 10
Vdd Vdd 0 PULSE(0 10 6m 0 0 3m)
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/sean/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran 10m
.backanno
.end
