* /Users/sean/IdeaProjects/CircuitBuilder/src/Output2.asc
MOS0 Vdd F 0 0 NMOS
MOS1 Vdd A B B NMOS
MOS2 A B C C NMOS
MOS3 B C 0 0 NMOS
MOS4 Vdd D 0 0 NMOS
Vdd Vdd 0 10
V1 A 0 5
V2 B 0 5
V3 C 0 PULSE(0 5 0 0 0 4m)
V4 D 0 0
V5 F 0 0
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/sean/Library/Application Support/LTspice/lib/cmp/standard.mos
.tran 10m
.backanno
.end
