* /Users/sean/Desktop/Q2.asc
M1 0 A VDD GND NMOS
M2 0 B VDD GND NMOS
M3 0 C VDD GND NMOS
M2 0 A VDD GND NMOS
.model NMOS NMOS
.model PMOS PMOS
.lib /Users/sean/Library/Application Support/LTspice/lib/cmp/standard.mos
.backanno
.end
